US04814341
N-n-Hexyl-N-methyl-5-acetylfuran-2-carboxamide
To a stirred slurry of 4.6 g. (0.03 mole) of 5-acetylfuran-2-carboxylic acid in 150 ml. of dichloromethane was added 3.3 g. (0.033 mole) of N-methylmorpholine. The resulting solution was cooled to -20° C., and 3.6 g. (0.033 mole) of ethyl chloroformate was added dropwise, with stirring. Stirring was continued for 1 hour at -15° C. and then 3.8 g. (0.033 mole) of n-hexylmethylamine was added dropwise at -20° C. The resulting mixture was stirred for 1.5 hours while being allowed to warm to room temperature. The reaction mixture was then washed with water, dried (Na2SO4) and evaporated in vacuo to give 7.5 g. of an oil. This oil was chromatographed on silica gel, eluting with 1:1 hexane-ethyl acetate, to give 5.6 g. of the title amide as an oil.

reactant | 5-acetylfuran-2-carboxylic acid | 0.03 mole | C(C)(=O)C1=CC=C(O1)C(=O)O | C7H6O4
reactant | N-methylmorpholine | 0.033 mole | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.033 mole | ClC(=O)OCC | C3H5ClO2
reactant | n-hexylmethylamine | 0.033 mole | C(CCCCC)NC | C7H17N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-n-Hexyl-N-methyl-5-acetylfuran-2-carboxamide | C(CCCCC)N(C(=O)C=1OC(=CC1)C(C)=O)C | C14H21NO3
